US07429581B2
(i) 4-Iodo-5-thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester
1.0 g (4.5 mmol) of 5-thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester was dissolved in 15 ml of dichloromethane and 1.01 g (4.5mmol) of N-iodosuccinimide was added. The resulting solution was stirred at room temperature for 16 h. The solution was washed with aqueous sodium thiosulfate solution. The organic phase was dried with sodium sulfate and filtered. The resulting solution was passed through a short silica gel column, washing with dichloromethane. The solvent was removed under reduced pressure.

reactant | 5-thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester | 4.5 mmol, 1.0 g | C(C)OC(=O)C=1NN=C(C1)C=1SC=CC1 | C10H10N2O2S
reactant | N-iodosuccinimide | 4.5mmol, 1.01 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-Iodo-5-thiophen-2-yl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1I)C=1SC=CC1 | C10H9IN2O2S
